US04105849
A solution of 15.7 parts of 4-[α-(p-trifluoromethylphenyl)benzyl]pyridine in 250 parts of acetic acid is heated, with agitation, at 47° C. under approximately 4 atmospheres of hydrogen and in the presence of 2 parts of platinum oxide catalyst for 2 hours. The resultant mixture is filtered, and the filtrate is stripped of solvent by vacuum distillation. The residue is poured into 3 volumes of ice water, and the mixture thus obtained is made alkaline with sodium hydroxide. This mixture is then extracted with ether. The ether extract is dried over anhydrous potassium carbonate, filtered, and the ether removed to provide 4-[(4-trifluoromethylphenyl)phenylmethyl]piperidine as an oil.

reactant | 4-[α-(p-trifluoromethylphenyl)benzyl]pyridine | FC(C1=CC=C(C=C1)C(C1=CC=CC=C1)C1=CC=NC=C1)(F)F | C19H14F3N
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | platinum oxide | [Pt]=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[(4-trifluoromethylphenyl)phenylmethyl]piperidine | FC(C1=CC=C(C=C1)C(C1CCNCC1)C1=CC=CC=C1)(F)F | C19H20F3N
